US04728663
N-[3-(2-Methyl-1H-imidazol-1-yl)propyl]benz[cd]indol-2-amine, monohydroiodide
A mixture of 2.1 g of 3-(2-methyl-1H-imidazol-1-yl)propanamine, 5.0 g of 2-(methylthio)benz[cd]indole hydroiodide, 1.4 g of sodium acetate and 250 ml of ethanol was reacted as described in Example 13, giving 1.0 g of the desired product, mp 153°-155° C.

reactant | 3-(2-methyl-1H-imidazol-1-yl)propanamine | 2.1 g | CC=1N(C=CN1)CCCN | C7H13N3
reactant | 2-(methylthio)benz[cd]indole hydroiodide | 5.0 g | I.CSC1=NC2=CC=CC=3C2=C1C=CC3
reactant | sodium acetate | 1.4 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | N-[3-(2-Methyl-1H-imidazol-1-yl)propyl]benz[cd]indol-2-amine, monohydroiodide | 1.0 g | I.CC=1N(C=CN1)CCCNC1=NC2=CC=CC=3C2=C1C=CC3 | InChI=1S/C18H18N4.HI/c1-13-19-10-12-22(13)11-4-9-20-18-15-7-2-5-14-6-3-8-16(21-18)17(14)15;/h2-3,5-8,10,12H,4,9,11H2,1H3,(H,20,21);1H
